US04581377
To 4.72 grams of 4-(2-fluorenyl)-butan-2-ol were added 1.74 grams of pyridine and 2.24 grams of acetic anhydride and the mixture was heated to reflux for 25 hours. An excess of acetic anhydride and pyridine was removed by evaporation, the residue was subjected to a silica gel column chromatography, the column was eluted with a 4:1 mixture of n-hexane and ethyl acetate, and the resulting crystals were recrystallized from n-hexane to give 5 grams of 4-(2-fluorenyl)-butan-2-ol acetate, white crystals, m.p. 63°-64.5° C.

reactant | 4-(2-fluorenyl)-butan-2-ol | 4.72 grams | C1=C(C=CC=2C3=CC=CC=C3CC12)CCC(C)O | C17H18O
reactant | acetic anhydride | 2.24 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.74 grams | N1=CC=CC=C1 | C5H5N
product | 4-(2-fluorenyl)-butan-2-ol acetate | 5 grams | C(C)(=O)OC(C)CCC1=CC=2CC3=CC=CC=C3C2C=C1 | C19H20O2
